US06696591B1
3-hydroxymethylphenol (10 g, 0.08 moles) is dissolved in acetone (50 ml). In the obtained solution potassium carbonate in powder (22.2 g, 0.16 moles) is suspended. To the suspension an acetylsalicylic acid chloride solution (16 g, 0.08 moles) in acetone (50 ml) is added at a temperature of 5°-10° C. under stirring. The mixture is maintained at a temperature in the above mentioned range, under stirring, for 2 hours, then filtered and the solvent evaporated under vacuum. The residue is crystallized from isopropanol. 3-hydroxymethylphenyl ester of the 2-acetoxy-benzoic acid (21.0 g, 0.07 moles, yield 91%) is obtained.

reactant | 3-hydroxymethylphenol | 0.08 moles, 10 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetylsalicylic acid chloride | 0.08 moles, 16 g | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-acetoxy-benzoic acid | 0.07 moles, 21.0 g, yield 91% | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
